US07501421B2
Preparation of 4-(5-Iodobenzoxazol-2-yl)piperazine-1-carboxylic acid benzyl ester
A mixture of 4-benzoxazol-2-yl-piperazine-1-carboxylic acid benzyl ester (0.50 g, 1.48 mmol) and iodine monochloride (0.265 g, 1.63 mmol) in acetic acid (4.94 mL) was stirred at 60° C. overnight, cooled, and concentrated in vacuo to provide the title compound, which was used without further purification, in Example 3.

reactant | 4-benzoxazol-2-yl-piperazine-1-carboxylic acid benzyl ester | 1.48 mmol, 0.50 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1OC2=C(N1)C=CC=C2 | C19H19N3O3
reactant | iodine monochloride | 1.63 mmol, 0.265 g | ICl | ClI
solvent | acetic acid | 4.94 mL | C(C)(=O)O | C2H4O2
product | 4-(5-Iodobenzoxazol-2-yl)piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1OC2=C(N1)C=C(C=C2)I | C19H18IN3O3
